US07192968B2
Lithium 5-methyl-4,6-dihydro-5H-pyrrolo[3,4-d]thiazole-2-carboxylate
5-Methyl-4,6-dihydro-5H-pyrrolo[3,4-d]thiazole (771 mg) was dissolved in tetrahydrofuran (10 ml) in an argon atmosphere, and the solution was cooled to −78° C. tert-Butyllithium (1.54N pentane solution, 3.93 ml) was added dropwise to this reaction mixture. The reaction mixture was stirred for 1 hour under ice cooling, and cooled again to −78° C. After blowing carbon dioxide into the reaction mixture for 20 minutes, it was heated to room temperature. The reaction mixture was concentrated under reduced pressure to obtain the title compound (1.08 g) as crude brown powder.

reactant | 5-Methyl-4,6-dihydro-5H-pyrrolo[3,4-d]thiazole | 771 mg | CN1CC=2N=CSC2C1 | C6H8N2S
reactant | tert-Butyllithium | 1.54N, 3.93 ml | C(C)(C)(C)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Lithium 5-methyl-4,6-dihydro-5H-pyrrolo[3,4-d]thiazole-2-carboxylate | 1.08 g | CN1CC=2N=C(SC2C1)C(=O)[O-].[Li+] | InChI=1S/C7H8N2O2S.Li/c1-9-2-4-5(3-9)12-6(8-4)7(10)11;/h2-3H2,1H3,(H,10,11);/q;+1/p-1
